US07119205B2
2-bromo-3-(4-chlorophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile
To a stirred solution of 3-(4-chlorophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile (0.17 g, 0.55 mmol) in AcOH (6 mL) was added pyridine hydrobromide perbromide (0.18 g, 0.6 mmol) in a single portion at room temperature. The reaction was stirred at room temperature for 1 h, diluted with water (25 mL). The resultant solid was filtered and dried to give the title compound. MS (ESI) m/e 380.79 (M−H)+; 1H NMR (300 MHz, DMSO-d6): ppm 7.45 (d, 2H), 7.33 (d, 2H).

reactant | 3-(4-chlorophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | 0.55 mmol, 0.17 g | ClC1=CC=C(C=C1)C1=CSC=2NC(C(=C(C21)O)C#N)=O | C14H7ClN2O2S
reactant | pyridine hydrobromide perbromide | 0.6 mmol, 0.18 g | C1=CC=[NH+]C=C1.Br[Br-]Br
solvent | AcOH | 6 mL | CC(=O)O | C2H4O2
solvent | water | 25 mL | O | H2O
product | 2-bromo-3-(4-chlorophenyl)-4-hydroxy-6-oxo-6,7-dihydrothieno[2,3-b]pyridine-5-carbonitrile | BrC1=C(C2=C(NC(C(=C2O)C#N)=O)S1)C1=CC=C(C=C1)Cl | C14H6BrClN2O2S
